US06531502B1
Triphenylphosphine (5.14 g, 19.58 mmol) was added to a solution of 3,5-diisopropyl-4-hydroxybenzaldehyde (4 g, 19.58 mmol) in tetrahydrofuran (40 ml) followed by addition of 2-hydroxyethylmorpholine (2.57 g, 19.58 mmol) and then the dropwise addition of diethylazodicarboxylate (3.41 g, 19.58 mmol). The mixture was stirred at room temperature for 12 hours. The reaction was concentrated under reduced pressure and partitioned between 2N hydrochloric acid (200 ml) and ethyl acetate (150 ml). The aqueous layer was extracted with ethyl acetate (2×150 ml), basified to pH 9 with solid sodium bicarbonate and extracted with ethyl acetate (3×150 ml). The organic layers were combined, dried over magnesium sulfate and concentrated to afford 900 mg (14%) of 3,5-diisopropyl-4-(2-morpholin-4-ylethoxy)-benzaldehyde as a yellowish oil.

reactant | Triphenylphosphine | 19.58 mmol, 5.14 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3,5-diisopropyl-4-hydroxybenzaldehyde | 19.58 mmol, 4 g | C(C)(C)C=1C=C(C=O)C=C(C1O)C(C)C | C13H18O2
reactant | 2-hydroxyethylmorpholine | 19.58 mmol, 2.57 g | OCCN1CCOCC1 | C6H13NO2
reactant | diethylazodicarboxylate | 19.58 mmol, 3.41 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 3,5-diisopropyl-4-(2-morpholin-4-ylethoxy)-benzaldehyde | 900 mg, 14% | C(C)(C)C=1C=C(C=O)C=C(C1OCCN1CCOCC1)C(C)C | C19H29NO3
